US08664233B2
Synthesis of 7-bromo-4-ethoxy-2-(piperazin-1-yl)-5H-pyrimido[5,4-b]indole
5.1 g (15.6 mmol) 7-bromo-2-chloro-4-ethoxy-5H-pyrimido[5,4-b]indole and 13.4 g (155.8 mmol) piperazine were heated in 80 ml mesitylene to 150° C. for 7.5 h. Then, the solvent was removed and the residue was suspended in water and sucked off. 5.8 g (99%) of the title substance was obtained. ESI-MS [m/z]: 376, 378 [M+H]+

reactant | 7-bromo-2-chloro-4-ethoxy-5H-pyrimido[5,4-b]indole | 15.6 mmol, 5.1 g | BrC=1C=CC=2C3=C(NC2C1)C(=NC(=N3)Cl)OCC | C12H9BrClN3O
reactant | piperazine | 155.8 mmol, 13.4 g | N1CCNCC1 | C4H10N2
solvent | mesitylene | 80 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 7-bromo-4-ethoxy-2-(piperazin-1-yl)-5H-pyrimido[5,4-b]indole | BrC=1C=CC=2C3=C(NC2C1)C(=NC(=N3)N3CCNCC3)OCC | C16H18BrN5O
